2176-10-06 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2176-10-5**] 07:59 PM
   [**2176-10-5**]: Started Metoprolol 25 TID. Around 8pm Pt tacchy to 130s,
   dyspeneic. O2 requirement increased from 2 to 4L. EKG obtained showed
   afib. Given 50 of metoprolol. Ordered 15 IV Dilt but held it as HR came
   down to 80s.  CXR shows increased pulmonary edema. Pt urinating well so
   held off on diuretics.
   ECHO: The left atrium is dilated. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity is moderately
   dilated. Overall left ventricular systolic function is moderately
   depressed (LVEF= 30-40 %) secondary to akinesis of the basal septum and
   hypokinesis of the rest of the left ventricle. There is considerable
   beat-tobeat variability of the left ventricular ejection fraction due
   to an irregular rhythm. Tissue Doppler imaging suggests an increased
   left ventricular filling pressure (PCWP>18mmHg). Right ventricular
   chamber size and free wall motion are normal. The aortic root is
   moderately dilated at the sinus level. The ascending aorta is
   moderately dilated. The aortic valve leaflets are severely
   thickened/deformed. There is moderate aortic valve stenosis (valve area
   1.0-1.2cm2). Moderate (2+) aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. There is no mitral valve prolapse.
   Mild to moderate ([**1-26**]+) mitral regurgitation is seen.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-10-6**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 81 (63 - 114) bpm
   BP: 116/52(68) {106/38(60) - 135/100(106)} mmHg
   RR: 21 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.7 kg (admission): 64.7 kg
   Height: 68 Inch
             Total In:
                                                                  1,731 mL
                                                                     27 mL
   PO:
                                                                    850 mL
             TF:
   IVF:
                                                                     81 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    290 mL
   Urine:
                                                                    830 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    901 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: Pleasant, in NAD, able to follow commands
   HEENT: No conjunctival pallor. No icterus. MMM. OP clear.
   NECK: Supple, No LAD. JVP 12 cm. Normal carotid upstroke without
   bruits.
   CV: Soft S1S2, Irregluarlary irregular.  II/VI systolic murmur best at
   USB..
   LUNGS: CTA anteriorly
   ABD: Soft, NT, ND.  No HSM. Abdominal aorta was not enlarged by
   palpation.
   EXT:No clubbing, cyanosis, edema. Full distal pulses bilaterally.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Grossly intact, no focal deficits.
   Labs / Radiology
   135 K/uL
   12.9 g/dL
   126 mg/dL
   1.3 mg/dL
   23 mEq/L
   5.2 mEq/L
   31 mg/dL
   107 mEq/L
   139 mEq/L
   38.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2176-10-5**]  04:49 AM
                             [**2176-10-5**]  01:02 PM
                             [**2176-10-5**]  08:46 PM
   WBC
   10.1
   Hct
   38.6
   Plt
   135
   Cr
   1.3
   TropT
   0.59
   0.71
   0.83
   Glucose
   126
   Other labs: PT / PTT / INR:24.9/41.3/2.4, CK / CKMB /
   Troponin-T:260/26/0.83, Mg++:1.9 mg/dL
   Assessment and Plan
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   78 y/o gentleman with CAD with PCI in [**2174**], HTN, AS, AF, presents with
   rest angina in the setting of rapid heart rate with wide complex
   tachycardia.
   .
   # CORONARIES:  Chest pain is concerning for unstable angina.  Known CAD
   as above. Plan is for cath early next week to fix underlying CAD, to
   allow for possible catheter ablation of VT. CK leak is likely due to
   demand ischemia.
   - cycle CE
   - ASA 325, plavix 75 (already loaded in ED)
   - heparin gtt when INR is below 2 and will hold coumadin
   - Will increase BB if HR trends up
   - risk stratify with HbA1c and lipid panel
   - continuing statin
   .
   # RHYTHM:  Episodes of WCT concerning for VTach.  Now in afib with PVC.
   Vt is in RVOT or LVOT in location
   - rate control with BB
   - heparin gtt and will hold coumadin
   - will start amiodarone gtt if WCT returns
   .
   # PUMP:  Known severe AS in our system and currently on exam.  Cath in
   [**2173**] with [**Location (un) 549**] of 1.07 with gradient of 21 mmHg.
   - daily I&O and weights
   - may benefit from careful diuresis in AM given CHF
   .
   #  ARF:  Cr 1.3 on admission.  Last Cr in our system is 0.9 in [**2173**].
   - trend Cr/renally dose meds/avoid nephrotoxins.
   - will get renal US given abd bruit
   .
   #  Medication reconciliation:
   - Unable to reach his family or pharmacy ([**Company 8824**] in [**Hospital1 714**])
   - will perform in AM.
   .
   #  Cough:  Patient states that this is similar to his allergic
   symptoms.  No fever.  CXR without evidence of PNA.  WBC mild elevation
   could be secondary to stress.
   - trend fever curve
   - low thresh hold to repeat CXR with PA/Lat
   .
   FEN:  Cardiac heart healthy
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with therap INR
   .
   CODE: Presumed full
   .
   COMM: With patient and Wife, [**Name (NI) 8825**], [**Telephone/Fax (1) 8826**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-10-5**] 05:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Period of tachycardia in af associated with chest pain - improved with
   addition of more beta blocker
   More evidence to proceed first to cardiac cath
   moderate AS and AR with ef of 30 to 40%
   Will diurese gently today in preparation for the procedure
   Will manage vt with bb until post procedure
   at that point need to decide between eps and possible ablation vs
   empiric drug therapy
   ultimately will likely require ICD as well
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Name (NI) **]
   on:[**2176-10-6**] 09:17 ------

2176-10-07 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Remained asymptomatic.  Tolerated lying flat well without diuresis.  No
   events overnight.  Scheduled for cath today, heparin discontinued at
   midnight.
   This AM, patient reports ongoing fatigue but denies other symptoms.
   Specifically, no CP, palpitations, SOB, dizziness or other pain.
   Telemetry: A fib in 70s, continues to have frequent ectopy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2176-10-7**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 72 (61 - 104) bpm
   BP: 115/46(64) {87/36(52) - 149/96(116)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 97% on 2 L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.7 kg (admission): 64.7 kg
   Height: 68 Inch
             Total In:
                                                                    960 mL
                                                                      3 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    160 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    280 mL
   Urine:
                                                                  1,155 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic, Diastolic), [**3-29**] AS murmur, soft AI murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : small at bases), poor air movement throughout
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   130 K/uL
   12.5 g/dL
   93 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   24 mg/dL
   104 mEq/L
   137 mEq/L
   38.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2176-10-5**]  04:49 AM
                             [**2176-10-5**]  01:02 PM
                             [**2176-10-5**]  08:46 PM
                             [**2176-10-6**]  05:39 AM
                             [**2176-10-7**]  03:33 AM
   WBC
   10.1
   9.9
   8.9
   Hct
   38.6
   39.7
   38.0
   Plt
   135
   127
   130
   Cr
   1.3
   1.0
   1.0
   TropT
   0.59
   0.71
   0.83
   0.92
   Glucose
   126
   102
   93
   Other labs: PT / PTT / INR:19.0/29.6/1.7, CK / CKMB /
   Troponin-T:185/20/0.92, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 PULMONARY EDEMA
   78 y/o gentleman with CAD with PCI in [**2174**], HTN, AS, AF, presents with
   rest angina in the setting of rapid heart rate with wide complex
   tachycardia.
   .
   # CORONARIES:  Chest pain is concerning for unstable angina.  Known CAD
   as above. Plan is for cath today to fix underlying CAD, to allow for
   possible catheter ablation of VT. CK leak is likely due to demand
   ischemia.
   - ASA 325, plavix 75
   - heparin gtt when INR is below 2 and will hold coumadin
   - Will increase BB if HR trends up
   - risk stratify with HbA1c and lipid panel : LDL 36
   - continuing statin
   .
   # RHYTHM:  Episodes of WCT concerning for VTach.  Now in afib with PVC.
   Vt is in RVOT or LVOT in location
   - rate control with BB: now metoprolol 50 [**Hospital1 **]
   - heparin gtt and will hold coumadin
   - will start amiodarone gtt if WCT returns
   .
   # PUMP:  Known severe AS in our system and currently on exam.  Cath in
   [**2173**] with [**Location (un) 549**] of 1.07 with gradient of 21 mmHg. TTE shows moderate AS
   and AR with ef of 30 to 40%
   - daily I&O and weights
   - may benefit from careful diuresis post-cath AM given CHF
   .
   #  ARF:  Cr 1.3 on admission.  Last Cr in our system is 0.9 in [**2173**].
   Cr now 1.0
   - trend Cr/renally dose meds/avoid nephrotoxins.
   - renal US given abd bruit
 not yet performed
   - mucomyst given overnight
   .
   #  Cough:  Patient states that this is similar to his allergic
   symptoms.  No fever.  CXR without evidence of PNA.  WBC mild elevation
   could be secondary to stress.
   - trend fever curve
   - low thresh hold to repeat CXR with PA/Lat
   .
   FEN:  Cardiac heart healthy
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with therap INR
   .
   CODE: Presumed full
   .
   COMM: With patient and Wife, [**Name (NI) 8825**], [**Telephone/Fax (1) 8826**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-10-5**] 05:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Cath today demonstrated cad but not acute
   as/ar moderate
   filling pressures stable
   will need to determine management of ventricular arrhythmias - likely
   initiation of sotalol and ICD implantation
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Name (NI) **]
   on:[**2176-10-7**] 17:18 ------

2176-10-08 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pt without complaints this AM. Denies chest pain,
   shortness of breath, back pain, groin pain.
   24 Hour Events:
   [**2176-10-7**]: Cath showed three vessel coronary artery disease with several
   stents in place, severe aortic stenosis and elevated left- and
   right-sided filling pressures. Abd US showed AAA measuring 4.1 cm at
   the widest diameter, slight interval increase from the ultrasound of
   [**2173-10-24**] No hydronephrosis. Bilateral renal cysts. No evidence of
   renal artery stenosis.
   Post cath check wnl.
   Sotalol 80 [**Hospital1 **] started - check ECGs after each dose
   restarted heparin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-10-7**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-10-8**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.6
   HR: 94 (59 - 98) bpm
   BP: 108/85(89) {103/30(52) - 137/85(89)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.7 kg (admission): 64.7 kg
   Height: 68 Inch
             Total In:
                                                                    727 mL
                                                                     37 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    487 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    350 mL
   Urine:
                                                                    820 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -443 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.40/34/103/26/-2
   Physical Examination
   General Appearance: No acute distress, AOX3
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), II/VI crescendo systolic
   murmur heard best at LSB
   Peripheral Vascular: DP/PT pulses 2+ bilaterally
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, R groin wound site clean, dry, intact. No hematoma, no
   bruits.
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, CN II-XII grossly intact
   Labs / Radiology
   117 K/uL
   11.5 g/dL
   87 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   138 mEq/L
   33.9 %
   7.6 K/uL
        [image002.jpg]
                             [**2176-10-5**]  04:49 AM
                             [**2176-10-5**]  01:02 PM
                             [**2176-10-5**]  08:46 PM
                             [**2176-10-6**]  05:39 AM
                             [**2176-10-7**]  03:33 AM
                             [**2176-10-7**]  12:41 PM
                             [**2176-10-8**]  03:27 AM
   WBC
   10.1
   9.9
   8.9
   7.6
   Hct
   38.6
   39.7
   38.0
   33
   33.9
   Plt
   135
   127
   130
   117
   Cr
   1.3
   1.0
   1.0
   0.9
   TropT
   0.59
   0.71
   0.83
   0.92
   0.76
   TCO2
   22
   Glucose
   126
   102
   93
   87
   Other labs: PT / PTT / INR:18.2/70.6/1.6, CK / CKMB /
   Troponin-T:61/20/0.76, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   78 y/o gentleman with CAD with PCI in [**2174**], HTN, AS, AF, presents with
   rest angina in the setting of rapid heart rate with wide complex
   tachycardia.
   .
   # CORONARIES:  Pt is s/p diagnostic catheterization yesterday. Cath
   showed 3 vessel disease, with moderate aortic stenosis, elevated
   filling pressures. Stents from previous interventions widely patent
   -          No intervention at catheterization yesterday
   -          Plan is for medical management
   -          Continuing ASA 325, plavix 75
   -          Continuing Heparin gtt
   -          Continuing atorvastatin 20 mg
   -          Post- cath check unremarkable
   -          Pt w/ slight Hct drop post-cath (38 to 33).  Hct stable
   (today 33.9). Will continue to follow
   .
   # RHYTHM:  Episodes of WCT concerning for VTach.  Now in afib with PVC.
   Vt is in RVOT or LVOT in location
   - Started Sotalol 80 mg [**Hospital1 **] yesterday -> increased to 120 mg [**Hospital1 **] today
   - Following with serial ECGs
   - Continuing Metoprolol mg 50 TID -> d/c
   - Likely will have ICD placed prior to discharge
   - cont heparin gtt for anti-coagulation
   .
   # PUMP:  Known severe AS in our system and currently on exam.  Cath in
   [**2173**] with [**Location (un) 549**] of 1.07 with gradient of 21 mmHg. TTE shows moderate AS
   and AR with ef of 30 to 40%
   - daily I&O and weights
   - No evidence of volume overload today. Will continue to follow.
   .
   #  ARF:  Cr 1.3 on admission.  Last Cr in our system is 0.9 in [**2173**].
   Cr now 0.9
   - trend Cr/renally dose meds/avoid nephrotoxins.
   .
   #AAA: 4.1 cm AAA found by abdominal u/s yesterday
   - No intervention for now. Will encourage close BP control and
   encourage outpt follow-up.
   .
   #  Cough:  Patient states that this is similar to his allergic
   symptoms.  No fever.  CXR without evidence of PNA.  WBC mild elevation
   could be secondary to stress.
   - trend fever curve
   - low thresh hold to repeat CXR with PA/Lat
   .
   FEN:  Cardiac heart healthy
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with therap INR
   .
   CODE: full
   .
   COMM: With patient and Wife, [**Name (NI) 8825**], [**Telephone/Fax (1) 8826**]
   .
   DISPO: CCU for now, call out to [**Hospital Ward Name 383**] 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2176-10-5**] 05:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 40 minutes.
   Additional comments:
   Moderate AS and AR
   Depressed LV function
   CHF
   VT
   resolving renal insufficiency
   Wiill continue sotalol and escalate dose to 120 [**Hospital1 **]
   will plan on ICD in next few days
   Do not want to do EPS given unrevascularizable CAD and concern for CPK
   leak during sustained VT
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Name (NI) **]
   on:[**2176-10-8**] 11:23 ------